US05541229
4'-[(2-n-Butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid-(N-benzenesulphonyl)-amide
960 mg (2.5 mmol) of 4'-[(2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid are dissolved in 25 ml of methylene chloride, treated with 2 ml of thionyl chloride and heated under reflux for one hour. The solvent is then distilled off and evaporated 2 times after adding methylene chloride. 390 mg (2.5 mmol) of benzenesulphonamide are added to the residue and the mixture is heated for one hour at 140° C. After cooling, the oil obtained is taken up in ethyl acetate/sodium chloride solution and extracted 3 times using ethyl acetate. The combined ethyl acetate phases are dried over sodium sulphate, evaporated and the crude product obtained is purified over a silica gel column using methylene chloride/ethanol as eluting agent.

reactant | 4'-[(2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | 2.5 mmol, 960 mg | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=CC=C2 | C25H24N2O2
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzenesulphonamide | 2.5 mmol, 390 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate sodium chloride | C(C)(=O)OCC.[Cl-].[Na+]
product | 4'-[(2-n-Butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid-(N-benzenesulphonyl)-amide | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CCCC | C31H29N3O3S
